US08012956B2
A solution of 4-(tert-butoxycarbonyl)-1H-indole-7-carboxylic acid (0.36 g, 1.38 mmol), HATU (0.30 g, 1.60 mmol), 4-methylmorpholine (0.75 mL, 6.89 mmol) and a 2M solution of ammonia in methanol (1.80 mL, 3.45 mmol) in dimethylformamide (5 mL) was stirred at room temperature for 18 hours. The reaction mixture was diluted with ethyl acetate (150 mL) and the organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated. Purification by column chromatography chloroform: (10% ammonium hydroxide in methanol) 9:1 as eluent afforded tert-butyl 7-carbamoyl-1H-indole-4-carboxylate (0.18 g, 50%). 1H NMR (400 MHz, CDCl3): 10.50 (bs, 1H), 7.83 (d, 1H), 7.43 (m, 2H), 7.15 (m, 1H), 6.30 (bd, 2H), 1.62 (s, 9H). MS (EI) for C14H16N2O3: 259 (M−H).

reactant | 4-(tert-butoxycarbonyl)-1H-indole-7-carboxylic acid | 1.38 mmol, 0.36 g | C(C)(C)(C)OC(=O)C1=C2C=CNC2=C(C=C1)C(=O)O | C14H15NO4
reactant | HATU | 1.60 mmol, 0.30 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 6.89 mmol, 0.75 mL | CN1CCOCC1 | C5H11NO
reactant | ammonia | N | H3N
reactant | methanol | 3.45 mmol, 1.80 mL | CO | CH4O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 7-carbamoyl-1H-indole-4-carboxylate | 0.18 g, 50% | C(N)(=O)C1=CC=C(C=2C=CNC12)C(=O)OC(C)(C)C | C14H16N2O3
